US06756378B2
To a stirred mixture of (2S,4S)-1-tert-butoxycarbonyl-4-(2-naphthyloxy)-2-pyrrolidinylmethanol (484 mg, 1.41 mmol), methyl 2-hydroxy-5-pyridinecarboxylate (216 mg, 1.41 mmol) and PPh3 (370 mg, 1.41 mmol) in THF (15 ml) was added DIAD (0.28 ml, 1.41 mmol) at room temperature under an atmosphere of nitrogen. The mixture was stirred over night. After removal of the solvent, the resulting residue was chromatographed on silica gel [50 g, n-hexane/EtOAc(2/1)], to give methyl-2-[(2S,4S)-1-tert-butoxycarbonyl-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate (170 mg, 25%) as a colorless oil. 1H-NMR (CDCl3) δ1.47 (s, 9H), 2.37 (m, 1H), 2.46 (d, J=14.2 Hz, 1H), 3.71-4.00 (m, 2H), 3.89 (s, 3H), 4.30-4.56 (m, 2H), 4.74 (dd, J=9.8, 4.6 Hz, 1H), 5.06 (br, 1H), 6.70 (d, J=8.8 Hz, 2H), 7.05-7.09 (m, 2H), 7.33 (t, J=6.9 Hz, 1H), 7.42 (t, J=6.9 Hz, 1H), 7.67-7.75 (m, 3H), 8.09 (d, J=8.8 Hz, 1H), 8.77 (d, J=2.2 Hz, 1H).

reactant | (2S,4S)-1-tert-butoxycarbonyl-4-(2-naphthyloxy)-2-pyrrolidinylmethanol | 1.41 mmol, 484 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC2=CC=CC=C2C=C1)CO | C20H25NO4
reactant | methyl 2-hydroxy-5-pyridinecarboxylate | 1.41 mmol, 216 mg | OC1=NC=C(C=C1)C(=O)OC | C7H7NO3
reactant | PPh3 | 1.41 mmol, 370 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.41 mmol, 0.28 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl-2-[(2S,4S)-1-tert-butoxycarbonyl-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate | 170 mg, 25% | COC(=O)C=1C=CC(=NC1)OC[C@H]1N(C[C@H](C1)OC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C27H30N2O6
